data/rdb19/train.csv
rxn,smiles,ea
2007,[C:11]([C:12]([C:13]([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:19])[H:20])([H:16])([H:17])[H:18].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12]([C:13]([C:14]([H:21])([H:22])[H:23])=[C:15]([H:25])[H:26])([H:19])[H:20])([H:16])([H:17])[H:18].[H:8][H:24].[N:1]([C:2](=[O:3])[C:4]=[C:5]([H:9])[H:10])([H:6])[H:7],54.4322008533054
3467,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[O:21][C:20]([C:18]([C:17]([H:23])([H:24])[H:25])=[C:19]([H:26])[H:27])[O:22][H:28])([H:9])[H:10])([H:6])([H:7])[H:8],23.806722990295384
4965,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9].[H:11][H:21],48.51897458184976
2830,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[H:29])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21](=[O:22])[O:23][C:24]=[C:25]([H:30])[H:31])([H:26])([H:27])[H:28],30.92409059475176
1207,[C:14]([O:15][C:16](=[C:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14]([O:15][C:16](=[C:17]([H:22])[H:23])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],25.198137066909112
291,[O:1]([O:2])[H:3].[O:4]([C:5]([C:6]([S:7][H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([H:3])[H:8].[O:2][O:4][C:5]([C:6]([S:7][H:13])([H:11])[H:12])([H:9])[H:10],76.45110734266927
1240,[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:14]([C:15]([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:11])[H:12])([H:8])([H:9])[H:10],67.63372409145813
2181,[C:11]([C:12]([C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])[H:8])([H:6])[H:7],13.26359184127068
4937,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[H:24])([H:10])[H:11])([H:7])([H:8])[H:9],25.952540921163745
825,[C:19]([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:19]([H:20])([H:21])[H:22].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12],57.44808906319668
5083,[C:11]([C:12]([C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12]([C:13]([H:14])=[N:15][C:16](=[O:17])[H:24])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([O:2][C:3]([C:4]([H:9])[H:10])([H:8])[H:23])([H:5])([H:6])[H:7],48.61205524462275
340,[C:4]([O:5][C:6](=[C:7]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[O:1]([O:2])[H:3]>>[O:1]([O:2][C:7]([C:6]([O:5][C:4]([H:8])([H:9])[H:10])[H:11])([H:12])[H:13])[H:3],20.63128140041954
2106,[C:11]([C:12]([C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:20])[H:21])([H:17])([H:18])[H:19].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3][C:13]([C:12]([C:11]([H:17])([H:18])[H:19])([H:20])[H:21])([H:14])[O:15][C:16]([H:22])([H:23])[H:24])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],21.96716058888705
